US08536210B2
Step 1: 5-(Allyloxy)-1,3-benzodioxole-4-carbaldehyde
To a stirred solution of 5-hydroxy-1,3-benzodioxole-4-carbaldehyde (0.166 g, 1.00 mmol) and K2CO3 (1.00 mmol) in dry N,N-dimethylformamide (2 ml) was added allylbromide (1.00 mmol) under argon. The mixture was stirred at room temperature for 18 h until the starting material was consumed (monitored by TLC). Then the mixture was poured onto ice-water (15 ml). The aqueous phase was filtered off, the precipitated product was washed with water and n-heptane and dried to give analytically pure crystals.

reactant | 5-hydroxy-1,3-benzodioxole-4-carbaldehyde | 1.00 mmol, 0.166 g | OC1=C(C2=C(OCO2)C=C1)C=O | C8H6O4
reactant | K2CO3 | 1.00 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | allylbromide | 1.00 mmol | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-(Allyloxy)-1,3-benzodioxole-4-carbaldehyde | C(C=C)OC1=C(C2=C(OCO2)C=C1)C=O | C11H10O4
